US05237070
To a solution of 5.0 g (0.0147 mole) of 2,6-di(tertiary-butyl)-4-(4'-carboxyphenylimino)-2,5-cyclohexadien-1-one in 300 ml of ethanol was added 0.25g of 5 percent palladium on charcoal. It was subjected to hydrogenation in a Paar apparatus and filtered. This solvent was removed by evaporation under vacuum and the residue was recrystallized from a 5:2 (v/v) ethanol-water mixture to provide light-orange crystals of 4-(3,5-di-tertiary-butyl-4-hydroxyanilino)benzoic acid, m.p. 241°-243° C. Analysis: Calculated for C21H27NO3 : %C, 73.9; %H, 8.0; %N, 4.1; Found: %C, 73.9; %H, 7.9; %N, 3.8.

reactant | 2,6-di(tertiary-butyl)-4-(4'-carboxyphenylimino)-2,5-cyclohexadien-1-one | 0.0147 mole, 5.0 g | C(C)(C)(C)C=1C(C(=CC(C1)=NC1=CC=C(C=C1)C(=O)O)C(C)(C)C)=O | C21H25NO3
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.25g | [Pd] | Pd
product | 4-(3,5-di-tertiary-butyl-4-hydroxyanilino)benzoic acid | C(C)(C)(C)C=1C=C(NC2=CC=C(C(=O)O)C=C2)C=C(C1O)C(C)(C)C | C21H27NO3
